US05064649
7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-5-ylmethyl)ceph-3-em-4-carboxylic acid.
Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-5-ylmethyl)-7β-[2-(2-triphenylmethylaminothiazol-4-yl)-2-Z-triphenylmethoxyiminoacetamido]ceph-3-em-4-carboxylate, (0.375 g) was dissolved in a solution of 10% conc. hydrochloric acid in 98% formic acid (3 mls). Within a few minutes a colourless crystalline precipitate had formed. The solution was maintained at room temperature for 45 mins and then filtered. The solid was washed with a little 10% conc. hydrochloric acid/formic acid and then water. The solvent was removed from the filtrate in vacuo and the residue partitioned between water and ether (5 mls). The aqueous phase was adjusted to pH 3 and filtered. The yellow homogeneous solution was chromatographed on HP20SS, eluting with 2,4,6,8 and 10% THF/water (100ml portions). The fractions containing the product were combined, concentrated and freeze-dried to give the title compound as an amorphous white solid, (0.037 g, 24%), νmax (KBr) 1751 (v.broad), 1670, 1629, 1529, 1363, 1262 and 1178cm -1 ; 2.84 (1H, dd, J 4.6, 14.5Hz), 2.94 (1H, dd, J 7.5, 14.5Hz), 3.38 and 3.59 (2H, ABq, J 17.6Hz), 5.17 (1H, d, J 4.7Hz), 5.44 (1H, m), 5.73 (1H, d, J 4.7Hz), 6.16 (1H, dd, J 1.9, 5.8Hz), 7.06 (1H, s) and 7.70 (1H, dd, J 1.1, 5.8Hz); [mass spectrum: +ve ion (thioglycerol) MH+ 466, MNa+ 488].

reactant | Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-5-ylmethyl)-7β-[2-(2-triphenylmethylaminothiazol-4-yl)-2-Z-triphenylmethoxyiminoacetamido]ceph-3-em-4-carboxylate | 0.375 g | O=C1OC(C=C1)CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C68H53N5O7S2
solvent | hydrochloric acid | Cl | ClH
solvent | formic acid | 3 mls | C(=O)O | CH2O2
product | 7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-5-ylmethyl)ceph-3-em-4-carboxylic acid | 0.037 g, 24% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CC2C=CC(O2)=O)C(=O)O)C1=O)=N/O | C17H15N5O7S2
